US06743608B2
(2S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoic acid/Ethyl (2R)-2-ethoxy-3-(4-hydroxyphenyl)propanoate
Ethyl (2RS) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)propanoate (0.5 ml of a solution containing 2 mg/ml in a phosphate, pH 7; 0.1M, or acetate buffer, pH 5; 0.1 M) was added to the reaction vessel followed by an enzyme (0.5 ml enzyme solution). The reaction mixture was shaken at room temperature and analysed at different times (maximum 36 h). The reaction mixture was analysed without work up by the gradient HPLC method 1 and by chiral HPLC methods 2 and 5.

reactant | Ethyl (2RS) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)propanoate | C(C)OC(C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
reactant | phosphate | P(=O)([O-])([O-])[O-]
reactant | acetate | C(C)(=O)[O-]
product | (2S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoic acid Ethyl (2R)-2-ethoxy-3-(4-hydroxyphenyl)propanoate | C(C)O[C@H](C(=O)O)CC1=CC=C(C=C1)O.C(C)O[C@@H](C(=O)OCC)CC1=CC=C(C=C1)O | InChI=1S/C13H18O4.C11H14O4/c1-3-16-12(13(15)17-4-2)9-10-5-7-11(14)8-6-10;1-2-15-10(11(13)14)7-8-3-5-9(12)6-4-8/h5-8,12,14H,3-4,9H2,1-2H3;3-6,10,12H,2,7H2,1H3,(H,13,14)/t12-;10-/m10/s1
